US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-p-tolyl-propyl)-amide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-N-[3-(4-methylphenyl)propyl]-1-piperidine-carboxamide (0.185 g, 0.23 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.058 g, 0.1 mmol)

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-N-[3-(4-methylphenyl)propyl]-1-piperidine-carboxamide | 0.23 mmol, 0.185 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCC3=CC=C(C=C3)C)C=C2)O)C=C1 | C49H62N4O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-p-tolyl-propyl)-amide | 0.1 mmol, 0.058 g | C1(=CC=C(C=C1)CCCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)C | C33H44N4O4
